Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
morphine / Percocet / Sulfa (Sulfonamide Antibiotics)
 
Attending: ___
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Pt is an ___ F with history of HTN, HL, chronic LBP, OA
presenting with LLQ abdominal pain, n/v.

Pt has been in the ___ building visiting her son who was
hospitalized.  On the night prior to admission, pt ate half a
grilled cheese sandwich and then began to fell somewhat 
nauseous.
She developed worsening, sharp, LLQ pain associated with chills. 

Went down to the lobby and began to have NB/NB emesis.  She was
subsequently brought to the ED.

Of note, pt reports history of epigastric pain, but she thought
this was due to taking too much ibuprofen for back pain. 
Improved after pt switched to Tylenol and started a PPI/H2
blocker.  No history of liver issues or RUQ pain.  Denies
baseline nausea, jaundice, prior fevers, chills.

On arrival to the ED, pt's VSS
Exam notable for LLQ pain.  Rectal showed guaiac positive stool
(pt reports history of hemorrhoids)
Labs notable for WBC: 14.9, Cr: 1.2 (unknown baseline), initial
lactate of 3.6->1.9 after fluids
Pt underwent CT a/p which initially was only read as colitis but
was updated to also reveal a portal vein thrombosis with
associated hyperenhancement of wedge-shaped infarct of the 
liver.
Pt was given Vanc/Zosyn, and heparin gtt and admitted to 
medicine
for further management.

ROS: Rest of 10-point ROS reviewed and is negative except as
noted above.

 
Past Medical History:
HTN
HL
Chronic back pain s/p disc surgery in ___
OA 
Splenectomy at age ___ for ITP

 
Social History:
___
Family History:
no history of GI illnesses including IBD or liver
diseases, no family history of clotting/bleeding disorders
 
Physical Exam:
ADMISSION EXAM:
VITALS: 99.1PO 144 / 75 90 18 98 RA 
GENERAL: laying in bed, in NAD
EYES: no scleral icterus, no conjunctival injection
ENT: MMM, clear OP, normal hearing
NECK: Supple, no appreciable LAD
RESP: CTA b/l, no w/r/r, non-labored breathing
CV: RRR, no m/r/g
GI: Soft, Mildly TTP in LLQ, no rebound, normoactive BS
GU: no foley
EXT: wwp, no edema
SKIN: no lesions, no rashes, no jaundice
NEURO: AOx3, moving all extremities purposefully
PSYCH: normal mood and affect

DISCHARGE EXAM:
VITALS: 98.1PO 138 / 77 89 18 98 ra 
GENERAL: laying in bed, in NAD
EYES: no scleral icterus, no conjunctival injection
ENT: MMM, clear OP, normal hearing
NECK: Supple, no appreciable LAD
RESP: CTA b/l, no w/r/r, non-labored breathing
CV: RRR, no m/r/g
GI: Soft, NT/ND, no rebound, normoactive BS
GU: no foley
EXT: wwp, no edema
SKIN: no lesions, no rashes, no jaundice
NEURO: AOx3, moving all extremities purposefully
PSYCH: normal mood and affect
 
Pertinent Results:
ADMISSION LABS: 
___ 10:20PM BLOOD WBC: 14.9* RBC: 4.31 Hgb: 13.6 Hct: 41.1
MCV: 95 MCH: 31.6 MCHC: 33.1 RDW: 17.7* RDWSD: 59.2* Plt Ct: 
519*

___ 10:20PM BLOOD Neuts: 79.6* Lymphs: 15.8* Monos: 2.3*
Eos: 1.1 Baso: 0.7 NRBC: 0.2* Im ___: 0.5 AbsNeut: 11.86*
AbsLymp: 2.36 AbsMono: 0.34 AbsEos: 0.16 AbsBaso: 0.11* 
___ 10:20PM BLOOD ___: 10.3 PTT: 26.1 ___: 1.0 
___ 12:08AM BLOOD Glucose: 145* UreaN: 50* Creat: 1.2* Na:
137 K: 5.2* Cl: 100 HCO3: 23 AnGap: 14 
___ 10:24PM BLOOD Lactate: 3.6* 
___ 05:48AM BLOOD Lactate: 1.9 

DISCHARGE LABS:
___ 05:10PM BLOOD WBC-13.3* RBC-3.71* Hgb-11.5 Hct-34.7 
MCV-94 MCH-31.0 MCHC-33.1 RDW-14.8 RDWSD-51.3* Plt ___
___ 05:10PM BLOOD Plt ___
___ 05:10PM BLOOD Glucose-100 UreaN-24* Creat-0.8 Na-137 
K-4.6 Cl-101 HCO3-25 AnGap-11
___ 05:10PM BLOOD ALT-22 AST-22 AlkPhos-51 TotBili-0.3
___ 05:10PM BLOOD Albumin-3.6 Calcium-9.1 Mg-2.0

IMAGING: 
=======
CTA a/p ___:
1. Diffuse submucosal edema of the sigmoid and descending colon
concerning for 
colitis of ischemic, infectious, or inflammatory etiology. 
2. Hypodensity in a posterior right portal vein branch 
suggesting
thrombus 
with consequent hyperenhancement of a wedge-shaped section in
segment 6 of the 
liver. 
3. 1.3 cm hypodense lesion in the body of the pancreas likely
representing 
side-branch IPMN recommend further evaluation with MRCP on a
nonemergent 
basis. 
4. Mildly dilated gonadal veins and periuterine varices a
nonspecific finding 
which can be seen in the setting of pelvic congestion syndrome. 
5. Patent mesenteric vasculature without significant stenosis. 

RUQ US ___:
1. Patent central portal veins.  Patent hepatic veins. 
2. Moderate right hydronephrosis is new from the same day prior 
study at 2:32 am.  The presence of a right ureteral jet makes 
complete obstruction unlikely. 
This may represent transient renal pelvic dilatation secondary 
to a full and distended bladder.  Recommend correlation with 
urine output and renal function testing. 

 
Brief Hospital Course:
___ F with HTN, HL, chronic LBP presenting with acute abdominal
pain, n/v, likely ___ colitis/gastroenteritis.  Also found to
have incidental acute PVT on CTA a/p.

# LLQ abdominal pain
# Colitis vs. gastroenteritis
Pt reports acute onset of LLQ, n/v/d, after eating some chicken
and grilled cheese sandwich while visiting son here.  Most 
likely
explanation for acute symptoms is viral gastroenteritis vs. food
poisoning.  Pt's abdominal pain has since improved and her
vomiting has largely resolved.  She was still having some
persistent diarrhea on admission which is consistent with a 
gastroenteritis
history.  Pt also noted to have some guaiac positive stools 
inthe ED but this is likely ___ to her chronic hemorrhoids (Hb 
wnl).  She
denies any obvious melena or BRBPR.  All GI symptoms largely 
resolved on discharge.

# ?Portal Vein Thrombosis
Pt found to have incidental PVT on CTA a/p.  This was very 
unusual given her lack of RUQ pain, and no history of liver 
disease or hypercoagulable events in the past.  She was 
initially started on a heparin gtt but repeat RUQ US with 
Dopplers did not show any thrombus and LFT's wnl.  Heparin gtt 
therefore discontinued.

# R hydronephrosis: seen on abd US.  Likely due to bladder 
distension as pt reports needing to void prior to exam and new 
from CT obtained earlier that day.  Cr was 1.2 on admission, 
likely prerenal as this improved to 0.8 on discharge.

# HTN: held lisinopril given n/v, ?___, restarted on discharge

# HL: held simvastatin on admission given ?liver infarct, 
restarted on discharge.

Transitional:
============
[ ] Consider repeat renal US to evaluate for resolution of R 
hydronephrosis above.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Influenza Vaccine Quadrivalent 0.5 mL IM NOW X1 
Start: ___, First Dose: Next Routine Administration Time 
2. Hysingla ER (HYDROcodone bitartrate) 30 mg oral QAM 
3. Lisinopril 20 mg PO DAILY 
4. Simvastatin 10 mg PO QPM 
5. Docusate Sodium 100 mg PO BID 
6. Ibuprofen 600 mg PO Q8H:PRN Pain - Mild 
7. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
8. Omeprazole 40 mg PO DAILY 
9. Famotidine 20 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  Docusate Sodium 100 mg PO BID  
3.  Famotidine 20 mg PO DAILY  
4.  Hysingla ER (HYDROcodone bitartrate) 30 mg oral QAM  
5.  Ibuprofen 600 mg PO Q8H:PRN Pain - Mild  
6.  Lisinopril 20 mg PO DAILY  
7.  Omeprazole 40 mg PO DAILY  
8.  Simvastatin 10 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Food-borne illness vs. viral gastroenteritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You came in with nausea, vomiting, and abdominal pain.  We think 
that this was either due to food poisoning and/or a viral GI 
illness.  You were given IV fluids and monitored and these 
symptoms resolved.

The CT scan of you abdomen also showed a clot in one of the 
major blood vessels that feeds your liver (the portal vein).  
However, you did not have any symptoms consistent with this or 
any risk factors that would cause you to develop this.  You had 
a subsequent ultrasound which did not show any abnormal flow in 
your blood vessels to suggest a clot.

It was a pleasure taking care of you at ___ 
___.
 
Followup Instructions:
___